* source ES170717_2_GUZZETTA
E_U1         VOUT 0 LAPLACE {V(N14947,N14433)*1E5}={{1/((1+1/(2*pi*{10e7}/
+ {1E5})*s))}}
C_C1         N14433 VOUT  2.2n  TC=0,0 
R_R1         N14433 0  {R1var} TC=0,0 
V_V1         N14868 0 DC 0Vdc AC 1Vac 
X_U2         N14947 N14868 VNOISE
X_U3         0 N14433 INOISE
R_R2         VOUT N14433  {162530-R1var} TC=0,0 
.PARAM  r1var=0
